US08470831B2
A mixture of 2,4-difluoro-3-hydroxybenzaldehyde (0.255 g, 1.613 mmol) and malonic acid (0.168 g, 1.613 mmol) in pyridine (6 ml) and piperidine (0.06 ml) was heated to reflux for 1 h. All the volatile were removed and the residue was partitioned between NaHCO3 sat. and Et2O. The aqueous phase was acidified with 37% HCl until pH <3 and extracted with AcOEt. The organic layer was dried over sodium sulphate and evaporated to give (E)-3-(2,4-difluoro-3-hydroxyphenyl)acrylic acid (280 mg) as pale a brown solid. The compound was used in the next step without further purification.

reactant | 2,4-difluoro-3-hydroxybenzaldehyde | 1.613 mmol, 0.255 g | FC1=C(C=O)C=CC(=C1O)F | C7H4F2O2
reactant | malonic acid | 1.613 mmol, 0.168 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
solvent | piperidine | 0.06 ml | N1CCCCC1 | C5H11N
product | (E)-3-(2,4-difluoro-3-hydroxyphenyl)acrylic acid | 280 mg | FC1=C(C=CC(=C1O)F)/C=C/C(=O)O | C9H6F2O3
